US05215738
Preparation of 3-(2-Acetoxyethoxy)benzamide
In a manner analogous to that set forth in A of this example, but substituting 1-bromo-2,3-epoxypropane for 2-bromoethylacetate, 3-(2,3-epoxy-n-propoxy)benzamide was prepared.

reactant | 2-bromoethylacetate | BrCCOC(C)=O | C4H7BrO2
reactant | 3-(2,3-epoxy-n-propoxy)benzamide | O1C(COC=2C=C(C(=O)N)C=CC2)C1 | C10H11NO3
product | 3-(2-Acetoxyethoxy)benzamide | C(C)(=O)OCCOC=1C=C(C(=O)N)C=CC1 | C11H13NO4
